US04639529
Preparation of 1-Benzyl-6-Phenyl-Piperidin-2-One-5-Carboxylic Acid
11.4 g (0.10 mole) of glutaric anhydride and 19.5 g (0.10 mole of Schiff base, prepared from benzaldehyde and benzylamine, are refluxed in 300 ml of xylene at 140° C. for 10 hr. After cooling to 0° C. the solid is collected, washed with xylene and ether: 24.7 g (80%) of acid. Recrystallization from acetone-ether gave 21.3 g (69%) of title compound mp 171°-4° C.

reactant | glutaric anhydride | 0.10 mole, 11.4 g | C1(CCCC(=O)O1)=O | C5H6O3
reactant | benzaldehyde | C(C1=CC=CC=C1)=O | C7H6O
reactant | benzylamine | C(C1=CC=CC=C1)N | C7H9N
solvent | xylene | 300 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 1-Benzyl-6-Phenyl-Piperidin-2-One-5-Carboxylic Acid | 21.3 g, 69% | C(C1=CC=CC=C1)N1C(CCC(C1C1=CC=CC=C1)C(=O)O)=O | C19H19NO3
